US04169763
Corynebacterium glutamicum FERM-P 3633 used in Example 1 is used as a seed strain. The seed strain is inoculated in an Erlenmeyer flask of 300 ml containing 20 ml of the seed medium as used in Example 1, and cultured with shaking at 28° C. for 24 hours. One liter of the seed culture is inoculated in a jar fermenter of 30 l containing 10 l of a fermentation medium (pH 7.2) comprising 14 g/dl of blackstrap molasses (as glucose), 0.03 g/dl of MgSO4.7H2O, 0.07 g/dl of KH2PO4, 0.3 g/dl of urea, 1.8 g/dl of soybean cake acid hydrolyzate (as soybean cake), and 1.4% (by volume) of leucine fermentation liquor prepared in advance as hereinafter described, and cultured at an aeration rate of 10 l/minute, a stirring speed of 400 r.p.m. and 28° C. for 48 hours, while adjusting pH of culture liquor at 6.8 with 22% aqueous ammonia. As the result, 58 mg/ml of L-lysine is formed and accumulated in the culture liquor. When a parent strain ATCC 21543 is cultured in the same manner as above, 43 mg/ml of L-lysine is obtained.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | urea | NC(=O)N | CH4N2O
reactant | leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | ammonia | N | H3N
product | L-lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
